US06239074B1
3-[3-(2-Bromo-2-chlorocarbonylethenyl)-4-chlorophenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine
1.6 g of thionyl chloride were added to a solution of 4.5 g of 3-[3-(2-bromo-2-carboxyethenyl)-4-chlorophenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine and 0.1 ml of dimethylformamide in 100 ml of toluene. The reaction mixture was heated slowly to the reflux temperature, stirred under reflux for 5 hours and evaporated down, and the residue was dried under greatly reduced pressure.

reactant | thionyl chloride | 1.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-[3-(2-bromo-2-carboxyethenyl)-4-chlorophenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 4.5 g | BrC(=CC=1C=C(C=CC1Cl)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C(=O)O | C15H9BrClF3N2O4
reactant | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[3-(2-Bromo-2-chlorocarbonylethenyl)-4-chlorophenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | BrC(=CC=1C=C(C=CC1Cl)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C(=O)Cl | C15H8BrCl2F3N2O3
